US03962378
2-hydroxyethane-phosphonic acid dimethyl ester
A solution of 50 g of 2-acetoxyethane-phosphonic acid dimethyl ester in 100 ml of anhydrous methanol is mixed with 0.5 g of KOH and heated to 65°-70°C for 5 hours while simultaneously removing a mixture of methyl acetate/methanol by distillation. The crude product is submitted to distillation under reduced pressure, 34 g of 2-hydroxyethane-phosphonic acid dimethyl ester are obtained, corresponding to a yield of 86.5% of the theoretical.

reactant | 2-acetoxyethane-phosphonic acid dimethyl ester | 50 g | COP(OC)(=O)CCOC(C)=O | C6H13O5P
reactant | KOH | 0.5 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-hydroxyethane-phosphonic acid dimethyl ester | yield of 86.5% | COP(OC)(=O)CCO | C4H11O4P
